US04048184
4-Ethoxy-2-methyl-6-phenyl-2H-pyrazolo[3,4-b]pyridine
8.5 g. of 4-chloro-2-methyl-6-phenyl-2H-pyrazolo[3,4-b]pyridine (0.035 mol.) are added to a solution of 0.9 g. of sodium (0.038 mol.) in 100 ml. of absolute ethanol. The mixture is heated at 150° in an autoclave for five hours. After cooling, the crystallized 4-ethoxy-2-methyl-6-phenyl-2H-pyrazolo[3,4-b]pyridine is filtered off, washed with alcohol and then with water, yield: 6.2 g.; m.p. 170°-171°. An additional crop of 2.4 g. is obtained by evaporation of the mother liquid, total yield: 8.6 g. (97%). Recrystallization from ethanol gives a product of the melting point 171°-172°.

reactant | 4-chloro-2-methyl-6-phenyl-2H-pyrazolo[3,4-b]pyridine | 0.035 mol | ClC=1C=2C(N=C(C1)C1=CC=CC=C1)=NN(C2)C | C13H10ClN3
reactant | sodium | 0.038 mol | [Na] | Na
reactant | ethanol | C(C)O | C2H6O
product | 4-Ethoxy-2-methyl-6-phenyl-2H-pyrazolo[3,4-b]pyridine | C(C)OC=1C=2C(N=C(C1)C1=CC=CC=C1)=NN(C2)C | C15H15N3O
